US07138425B2
a) 2-(3-Aminophenyl)naphth[2,3-d]oxazole
Prepared by the method of Example 1a), from 3-amino-2-naphthol (579 mg, 3.6 mmol) and 3-aminobenzoic acid (500 mg, 3.6 mmol) the subtitle compound was obtained, 58 mg (6%). 1H NMR (CDCl3) δ 8.12(s, 1H), 7.90(m, 3H), 7.65(dt, J=1.5, 7.5 Hz, 1H), 7.60(t, J=2.3 Hz, 1H), 7.42(m, 2H), 7.27(t, J=7.9 Hz), 6.82(dd, J=2.3, 7.9 Hz). MS 261 m/z (M+H)+.

reactant | 3-amino-2-naphthol | 3.6 mmol, 579 mg | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
reactant | 3-aminobenzoic acid | 3.6 mmol, 500 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 2-(3-Aminophenyl)naphth[2,3-d]oxazole | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C17H12N2O
